US08183245B2
Step 4: 5-(1-methyl-1H-pyrazol-4-yl)-1-(phenylsulfonyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine
3-bromo-5-(1-methyl-1H-pyrazol-4-yl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.845 g, 2.03 mmol), potassium acetate (0.497 g, 5.06 mmol), tricyclohexylphosphine (0.0680 g, 0.243 mmol), bis(pinacolato)diboron (0.823 g, 3.24 mmol) and Pd2(dba)3 (0.0930 g, 0.101 mmol) were combined in dioxane (10 ml), sparged with argon for 5 minutes, and stirred at 100° C. for 16 h. The reaction mixture was cooled to room temperature, diluted with EtOAc (20 mL), and filtered through celite. The filtrate was concentrated to a crude residue that was carried on to the next step without further purification. LRMS calculated for C23H25BN4O4S [M+H]+, 465.2; found 465.1.

reactant | 3-bromo-5-(1-methyl-1H-pyrazol-4-yl)-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.03 mmol, 0.845 g | BrC1=CN(C2=NC=C(C=C21)C=2C=NN(C2)C)S(=O)(=O)C2=CC=CC=C2 | C17H13BrN4O2S
reactant | potassium acetate | 5.06 mmol, 0.497 g | C(C)(=O)[O-].[K+]
reactant | tricyclohexylphosphine | 0.243 mmol, 0.0680 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | bis(pinacolato)diboron | 3.24 mmol, 0.823 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.101 mmol, 0.0930 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(1-methyl-1H-pyrazol-4-yl)-1-(phenylsulfonyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | CN1N=CC(=C1)C=1C=C2C(=NC1)N(C=C2B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=CC=C2 | C23H25BN4O4S
